US08633175B2
To a solution of 3-hydroxy-4-iodobenzoic acid (3.0 g, 0.011 mol) in acetone (50 mL) was added in one portion potassium carbonate (3.9 g, 0.028 mol). Dimethyl sulfate (3.5 g, 0.028 mol) was added dropwise and the mixture was heated at reflux overnight. The mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and aqueous saturated sodium bicarbonate solution. The organic phase was washed with brine, dried over sodium sulfated and concentrated in vacuo to give methyl 4-iodo-3-(methyloxy)benzoate as a yellow oil. 1H NMR (DMSO-d6) δ ppm 3.83 (s, 3H, Me), 3.87 (s, 3H, Me), 7.30 (dd, J=8.0, 1.8 Hz, 1H, Ar), 7.40 (d, J=1.7 Hz, 1H, Ar), 7.92 (d, J=8.0 Hz, 1H, Ar).

reactant | 3-hydroxy-4-iodobenzoic acid | 0.011 mol, 3.0 g | OC=1C=C(C(=O)O)C=CC1I | C7H5IO3
reactant | potassium carbonate | 0.028 mol, 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethyl sulfate | 0.028 mol, 3.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | methyl 4-iodo-3-(methyloxy)benzoate | IC1=C(C=C(C(=O)OC)C=C1)OC | C9H9IO3
